US07491718B2
2-ethyl-2-(1-piperidinylcarbonyl)butanenitrile
The compound was synthesized from 1-cyanoacetylpiperidine (1.52 g, 10 mmol), bromoethane (3.73 mL, 50 mmol) and 1.6M n-butyllithium in hexane (13.75 mL, 22 mmol) in 40 mL of THF according to the method described in Example 393A to give 0.92 g. MS (ESI(+)) m/e 209 (M+H)+; 226 (M+NH4)+; 1H NMR (300 MHz, DMSO-d6) δ 3.44-3.67 (m, 4H), 2.00-2.10 (m, 2H), 1.79-1.86 (m, 2H), 1.43-1.70 (m, 6H), 1.03-1.07 (m, 6H).

reactant | 1-cyanoacetylpiperidine | 10 mmol, 1.52 g | C1CCN(CC1)C(=O)CC#N | C8H12N2O
reactant | bromoethane | 50 mmol, 3.73 mL | BrCC | C2H5Br
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 22 mmol, 13.75 mL | CCCCCC | C6H14
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-ethyl-2-(1-piperidinylcarbonyl)butanenitrile | C(C)C(C#N)(CC)C(=O)N1CCCCC1 | C12H20N2O
